US07842717B2
To a solution of 1 g of duloxetine in 10 ml MEK was slowly added 0.32 ml of a 37 percent hydrochloric acid solution. The mixture was stirred until a solid formed. The resulting solid was filtered, and dried in a vacuum oven to give 0.50 g of (S)-(+)-duloxetine hydrochloride. (94.64% yield).

reactant | duloxetine | 1 g | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3 | C18H19NOS
reactant | hydrochloric acid | Cl | ClH
solvent | MEK | 10 ml | CCC(=O)C | C4H8O
product | (S)-(+)-duloxetine hydrochloride | 0.50 g, 94.64% yield | CNCC[C@@H](C1=CC=CS1)OC2=CC=CC3=CC=CC=C32.Cl | InChI=1S/C18H19NOS.ClH/c1-19-12-11-17(18-10-5-13-21-18)20-16-9-4-7-14-6-2-3-8-15(14)16;/h2-10,13,17,19H,11-12H2,1H3;1H/t17-;/m0./s1
